US04925878
21.92 g of N-1-phenylisopropyl-N-methyl-2-bromo-propenyl amine are dissolved in 320 ml of alcohol and 40 ml of a 50% aqueous potassium hydroxide solution are added. The mixture is refluxed for 216 hours. The alcohol is distilled off and to the residue water is added and the mixture is extracted with benzene. The benzene solution is dried over potassium carbonate and evaporated. The residue is distilled off in vacuo. At 104°-110° C., 5 Hgmm 15 g of N-1-phenylisopropyl-N-methyl-propynylamine are obtained as a main fraction. nD20.4 =1.5229.

reactant | N-1-phenylisopropyl-N-methyl-2-bromo-propenyl amine | 21.92 g | C1(=CC=CC=C1)C(C)(C)N(C)C=C(C)Br | C13H18BrN
reactant | potassium hydroxide | [OH-].[K+]
product | N-1-phenylisopropyl-N-methyl-propynylamine | 15 g | C1(=CC=CC=C1)C(C)(C)N(C)C#CC | C13H17N
